US04707179
2-(4-Thiomorpholinyl)-3-pyridinesulfonamide
In a dry flask under an inert nitrogen atmosphere was mixed 2.5 g of 2-chloro-3-pyridinesulfonamide, 100 mL of dry N,N-dimethylformamide (DMF), and 2.7 mL of thiomorpholine. The mixture was heated at 80° C. overnight at which time an additional 0.3 mL of thiomorpholine was added and the heating was continued. After 24 hours the mixture was concentrated and the residue was taken up in THF. The solids were filtered and the filtrate was concentrated and chromatographed on silica gel using 1:1 ethyl acetate/hexane as eluent. The pure subject compound was isolated as a solid, which melted at 176°-177° C.; NMR (200 MHz, CDCl3): δ 2.89 (m, CH2S, 4H), 3.45 (m, CH2N, 4H), 5.52 (s, NH2, 2H), 7.26 (t, ArH, 1H), 8.2-8.6 (m, ArH, 2H).

reactant | 2-chloro-3-pyridinesulfonamide | 2.5 g | ClC1=NC=CC=C1S(=O)(=O)N | C5H5ClN2O2S
reactant | thiomorpholine | 2.7 mL | N1CCSCC1 | C4H9NS
reactant | thiomorpholine | 0.3 mL | N1CCSCC1 | C4H9NS
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 2-(4-Thiomorpholinyl)-3-pyridinesulfonamide | N1(CCSCC1)C1=NC=CC=C1S(=O)(=O)N | C9H13N3O2S2
